US03948913
A mixture of 10.0 grams of 4-chloro-1-methyl-3-(5-nitro-2-furyl)-1H-pyrazolo[3,4-d]pyrimidine, 6.0 grams of dimethylamine and 600 milliliters of ethyl acetate was heated at reflux for 30 minutes, cooled and filtered. The filtrate was extracted with three 100 milliliters portions of water. The organic layer was dried over anhydrous magnesium sulphate and evaporated down to dryness. The crystalline product was collected, washed with ethanol and dried. Recrystallisation from ethyl acetate gave 4-dimethylamino-1-methyl-3-(5-nitro-2-furyl)-1H-pyrazolo[3,4-d]pyrimidine having melting point 161°C.

reactant | 4-chloro-1-methyl-3-(5-nitro-2-furyl)-1H-pyrazolo[3,4-d]pyrimidine | 10.0 grams | ClC1=C2C(=NC=N1)N(N=C2C=2OC(=CC2)[N+](=O)[O-])C | C10H6ClN5O3
reactant | dimethylamine | 6.0 grams | CNC | C2H7N
solvent | ethyl acetate | 600 milliliters | C(C)(=O)OCC | C4H8O2
product | 4-dimethylamino-1-methyl-3-(5-nitro-2-furyl)-1H-pyrazolo[3,4-d]pyrimidine | CN(C1=C2C(=NC=N1)N(N=C2C=2OC(=CC2)[N+](=O)[O-])C)C | C12H12N6O3
